US06008362
2-(4-Chloro-1-phenyl-butylidene)-N-phenyl- hydrazinecarbothioamide
A mixture of 4-chlorobutyrophenone (6.7 mL, 42 mmol) and 4-phenyl-3-thiosemicarbazide (7.0 g, 42 mmol) in 500 mL of ethanol was warmed under a nitrogen atmosphere to dissolve all the solids and then the reaction stirred at room temperature for four days. The solid formed was collected by filtration and dried under reduced pressure to give 8.73 g of a white solid. Recrystallization of the solid from ethanol gave 7.99 g (57%) of the title compound as a white solid, mp 107-109° C.

reactant | 4-chlorobutyrophenone | 42 mmol, 6.7 mL | ClCCCC(=O)C1=CC=CC=C1 | C10H11ClO
reactant | 4-phenyl-3-thiosemicarbazide | 42 mmol, 7.0 g | C1(=CC=CC=C1)NC(NN)=S | C7H9N3S
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 2-(4-Chloro-1-phenyl-butylidene)-N-phenyl- hydrazinecarbothioamide | 8.73 g | ClCCCC(C1=CC=CC=C1)=NNC(NC1=CC=CC=C1)=S | C17H18ClN3S
